US04238494
Crushed potassium hydroxide (5.7g, 0.1 mol) was added portionwise to a refluxing solution of 1-nitro-2-methylthio-2-methylsulphinylethylene (9.3g, 0.05 mol) and aminoacetone hydrochloride (5.6g, 0.05 mol) is methanol (100 ml). Reflux was continued for 5 minutes, and then the mixture was cooled and the solvent removed in vacuo. Water was added to the residue, and the solid was recrystallised from chloroform/methanol/petroleum ether to give 2-methylthio-3-nitro-4-methylpyrrole (1.45g, 16%) m.p. 216-216-5.

reactant | potassium hydroxide | 0.1 mol, 5.7g | [OH-].[K+]
reactant | 1-nitro-2-methylthio-2-methylsulphinylethylene | 0.05 mol, 9.3g | [N+](=O)([O-])C=C(S(=O)C)SC | C4H7NO3S2
reactant | aminoacetone hydrochloride | 0.05 mol, 5.6g | Cl.NCC(C)=O
solvent | methanol | 100 ml | CO | CH4O
product | 2-methylthio-3-nitro-4-methylpyrrole | 1.45g, 16% | CSC=1NC=C(C1[N+](=O)[O-])C | C6H8N2O2S
